US04668823
193 ml of a 2.6 Molar solution of 503 mmoles of isopropylmagnesium bromide in ether was added dropwise to a stirred solution of 89.96 g (502.6 mmoles) of phenyldichlorophosphine in 750 ml of anhydrous ether, maintained at -25° C. under an inert atmosphere. After the addition was complete, the mixture was stirred for 15 minutes at a temperature of -25° C. and then was allowed to gradually warm to +8° C. 325 ml of a 2.01 Molar solution of 653 mmoles of phenylmagnesium bromide in ether was then added dropwise at a temperature of between +8° C. to +32° C. The mixture was refluxed for one-half hour, and hydrolyzed. Distillation gave isopropyldiphenylphosphine. 31P-NMR(delta)=0.49 ppm (relative intensity 999.96), Yield=about 49%, BP=122°-124° C. at 0.3 torr.

reactant | isopropylmagnesium bromide | 503 mmoles | C(C)(C)[Mg]Br
reactant | phenyldichlorophosphine | 502.6 mmoles, 89.96 g | C1(=CC=CC=C1)P(Cl)Cl | C6H5Cl2P
reactant | phenylmagnesium bromide | 653 mmoles | C1(=CC=CC=C1)[Mg]Br
solvent | ether | CCOCC | C4H10O
solvent | ether | 750 ml | CCOCC | C4H10O
product | isopropyldiphenylphosphine | Yield=about 49% | C(C)(C)P(C1=CC=CC=C1)C1=CC=CC=C1 | C15H17P
